US07807411B2
Step 2—Synthesis of (2S)-2-benzyloxycarbonylamino-5-oxo-heptanedioic acid 1-benzyl ester 7-ethyl ester (FIG. 1, Structure 3)
Z-Glu-Obzl (a N-α-Cbz-L-glutamic acid α-benzyl ester) (5 g, 13.46 mmol) was dissolved in 50 ml of dry THF at room temperature. N,N′-carbonyl diimidazole (1.1 eq) was added slowly and the mixture was then stirred for 2 hrs at room temperature. Ethyl magnesium malonate (0.55 eq) was added, and the mixture was stirred at room temperature overnight. The product was extracted with ether, and washed with 10% NaHCO3, water, and brine. The residue containing 3 was purified by flash chromatography on silica gel (ethyl acetate:hexanes 50:50) and concentrated on a rotary evaporator to afford a white solid in 40% yield. 1H-NMR (400 MHz, CDCl3): δ 1.26 (t, J=7.2, 3H), 1.9-2.01 (m, 1H), 2.1-2.28 (m, 1H), 2.5-2.7 (m, 2H), 3.37 (s, 2H), 4.18 (q, J=7.2, 2H), 4.41 (s, 1H), 5.11 (s, 2H), 5.18 (s, 2H), 5.44 (d, J=8, 1H), 7.25-7.41 (m, 10H). LC-MS (ESI) calcd for C24H2NO7 (M+H+) 442.18, obsd. 442.0.

reactant | Z-Glu-Obzl | C1=CC=C(C=C1)COC(=O)[C@H](CCC(=O)O)NC(=O)OCC2=CC=CC=C2 | C20H21NO6
reactant | Ethyl magnesium malonate | 0.55 eq | C(CC(=O)[O-])(=O)[O-].C(C)[Mg+2]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2S)-2-benzyloxycarbonylamino-5-oxo-heptanedioic acid 1-benzyl ester 7-ethyl ester | 40% yield | C(C)OC(CC(CC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C24H27NO7
